US04725683
4-(4-(4-Bromo-2-fluorophenoxy)phenoxy)-3-oxo-1-pentene
To a solution of 30 ml of 35% HClO4 and 15 ml CH2Cl2 at 0° C. was added 3.0 g (7.55 mmol) 4-(4-(4-bromo-2-fluorophenoxy)phenoxy)-3-methoxy-2-penten-1-ol in 15 ml CH2Cl2. The mixture was stirred at 0° C. for 45 min, then poured into water and extracted with ether. The combined ether extracts were washed with water, dried over MgSO4 and the solvent was removed by rotary evaporation. The residue was purified by HPLC, eluting with 95:5 hexane:acetone, to give 1.9 g (69%) of the product as a clear, colorless oil. Structure was established on the basis of IR and NMR analysis. Calc: C, 55.91; H, 3.86. Found: C, 56.84, H, 4.00.

reactant | 4-(4-(4-bromo-2-fluorophenoxy)phenoxy)-3-methoxy-2-penten-1-ol | 7.55 mmol, 3.0 g | BrC1=CC(=C(OC2=CC=C(OC(C(=CCO)OC)C)C=C2)C=C1)F | C18H18BrFO4
reactant | water | O | H2O
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-(4-Bromo-2-fluorophenoxy)phenoxy)-3-oxo-1-pentene | 1.9 g, 69% | BrC1=CC(=C(OC2=CC=C(OC(C(C=C)=O)C)C=C2)C=C1)F | C17H14BrFO3
